US07825128B2
a) Preparation of (RS)-1-(methylsulphinyl)-4-nitrobenzene
A suspension of 25.00 g (147.8 mmol) 1-methylsulphanyl-4-nitro-benzene and 0.69 g (4.2 mmol) iron(III) chloride (anhydrous) in 120 ml acetonitrile is treated with 36.0 g (158.1 mmol) periodic acid and stirred at room temperature. At the start of heat evolution, the mixture is transiently cooled with an ice-bath, so that the temperature does not rise above 30° C. After the heat evolution has subsided, the mixture is stirred at room temperature for a further 10 mins. The mixture is poured into a solution of 150 g sodium thiosulphate in 1000 ml ice-water and then extracted with DCM. The combined organic phases are washed with saturated NaCl solution, dried (Na2SO4), filtered and concentrated. The remaining residue is recrystallised from toluene. 23.6 g (128.0 mmol, corresponding to 86% of theor.) of the product is obtained.

reactant | 1-methylsulphanyl-4-nitro-benzene | 147.8 mmol, 25.00 g | CSC1=CC=C(C=C1)[N+](=O)[O-] | C7H7NO2S
reactant | periodic acid | 158.1 mmol, 36.0 g | I(=O)(=O)(=O)O | HIO4
reactant | sodium thiosulphate | 150 g | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | acetonitrile | 120 ml | C(C)#N | C2H3N
catalyst | iron(III) chloride | 4.2 mmol, 0.69 g | [Fe](Cl)(Cl)Cl
product | (RS)-1-(methylsulphinyl)-4-nitrobenzene | CS(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C7H7NO3S
